US08420823B2
N-(2-methoxyphenyl)-3-(phenylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(phenylsulfonyl)benzoic acid and 2-methoxyaniline as the starting materials.

reactant | 3-(phenylsulfonyl)benzoic acid | C1(=CC=CC=C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C13H10O4S
reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
product | N-(2-methoxyphenyl)-3-(phenylsulfonyl)benzamide | COC1=C(C=CC=C1)NC(C1=CC(=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C20H17NO4S
